US04792561
A solution of 3 ml of 3M phenylmagnesium bromide in ether was added to a suspension of 1.0 g of 6-(imidazol-1-yl acetyl)-3,4-dihydrocarbostyril in 25 ml of tetrahydrofuran at 0° C., the mixture stirred for 30 minutes at 0° C., then at 25° C. for 18 hours. The reaction was quenched with 10 ml of water and extracted with 10% methanol in methylene chloride. The organic extract was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield a gum which was chromatographed on silica gel, eluting with 5% methanol in methylene chloride, to give 6-[1-hydroxy-1-phenyl-2-(imidazol-1-yl)ethyl]-3,4-dihydrocarbostyril as a foam.

reactant | phenylmagnesium bromide | 3M, 3 ml | C1(=CC=CC=C1)[Mg]Br
reactant | 6-(imidazol-1-yl acetyl)-3,4-dihydrocarbostyril | 1.0 g | N1(C=NC=C1)CC(=O)C=1C=C2CCC(NC2=CC1)=O | C14H13N3O2
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 6-[1-hydroxy-1-phenyl-2-(imidazol-1-yl)ethyl]-3,4-dihydrocarbostyril | OC(CN1C=NC=C1)(C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C20H19N3O2
